US08748458B2
(5-Methyl-pyridin-2-yl)-pyridin-2-yl-amine (I)
2-Bromo-5-methylpyridine (300 mg, 1.74 mmol), 2-aminopyridine (180 mg, 1.91 mmol), potassium tert-butoxide (293 mg, 2.61 mmol), (±)-BINAP (4.3 mg, 0.07 mmol) and Pd2(dba)3 (4 mg, 0.05 mmol) were stirred in toluene (4 mL) at 90° C. under Ar(g). After 17 h stirring, the reaction was diluted with CH2Cl2 (5 mL), and silica was added. The solvent was removed under reduced pressure and the resulting dry loaded material purified by silica gel column chromatography eluting with CH2Cl2/MeOH (100:2) to furnish I as a yellow solid (187 mg, 58%).

reactant | 2-Bromo-5-methylpyridine | 1.74 mmol, 300 mg | BrC1=NC=C(C=C1)C | C6H6BrN
reactant | 2-aminopyridine | 1.91 mmol, 180 mg | NC1=NC=CC=C1 | C5H6N2
reactant | potassium tert-butoxide | 2.61 mmol, 293 mg | CC(C)([O-])C.[K+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd2(dba)3 | 0.05 mmol, 4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (5-Methyl-pyridin-2-yl)-pyridin-2-yl-amine | 187 mg, 58% | CC=1C=CC(=NC1)NC1=NC=CC=C1 | C11H11N3
